US06727264B1
1-[(3R)-3-(3,4-DIMETHOXYPHENOXY)-3-PHENYLPROPYL]-4-(4-NITROPHENYL)-1,2,3,6-TETRAHYDROPYRIDINE:
A mixture of potassium carbonate (24.0 mg, 0.174 mmol), sodium iodide (39.0 mg, 0.260 mmol), 4-(4-nitrophenyl)-1,2,3,6-tetrahydropyridine (35.4 mg, 0.174 mmol) and 4-{[(1R)-3-chloro-1-phenylpropyl]oxy}-1,2-dimethoxybenzene (53.4 mg, 0.174 mmol) in DMF (0.5 mL) was stirred at 100° C. for 3 hrs, at which time TLC indicated that the reaction was complete. The reaction mixture was poured into water (5.0 mL) and the aqueous layer was extracted with methylene chloride (3×30 mL). The combined organic extracts were washed with brine (30 mL), dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by Prep-TLC plates [1:1=hexane:ethyl acetate with 1% NH3] afforded the product (63.1 mg, 76.6%) as a yellow oil. The product was used in next reaction without further purification.

reactant | potassium carbonate | 0.174 mmol, 24.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.260 mmol, 39.0 mg | [I-].[Na+]
reactant | 4-(4-nitrophenyl)-1,2,3,6-tetrahydropyridine | 0.174 mmol, 35.4 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1CCNCC1 | C11H12N2O2
reactant | 4-{[(1R)-3-chloro-1-phenylpropyl]oxy}-1,2-dimethoxybenzene | 0.174 mmol, 53.4 mg | ClCC[C@H](C1=CC=CC=C1)OC1=CC(=C(C=C1)OC)OC | C17H19ClO3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 5.0 mL | O | H2O
product | 1-[(3R)-3-(3,4-DIMETHOXYPHENOXY)-3-PHENYLPROPYL]-4-(4-NITROPHENYL)-1,2,3,6-TETRAHYDROPYRIDINE | 63.1 mg, 76.6% | COC=1C=C(O[C@H](CCN2CCC(=CC2)C2=CC=C(C=C2)[N+](=O)[O-])C2=CC=CC=C2)C=CC1OC | C28H30N2O5
